US05097023
Methyl 2,3,5-tri-O-benzyl-L-xylofuranose (11.7 g, 27.92 mmol) is dissolved in ethanol (150 mL) and sodium borohydride (0.844 g, 30.5 mmol) was added. The mixture is stirred 2 hours at 0° C. The reaction is treated successively by acetone and acetic acid. The mixture is concentrated under reduced pressure. The residue is taken with water, extracted three times with ethyl acetate. The organic layer is dried over sodium sulfate, filtered and concentrated under reduced pressure to afford an oil. Flash chromatography on silica gel and elution with a 1:1 mixture of hexane and ethyl acetate yield 2,3,5-tri-O-benzyl-L-xylitol (10.2 g, 86.5%) as an oil.

reactant | Methyl 2,3,5-tri-O-benzyl-L-xylofuranose | 27.92 mmol, 11.7 g | CC1(O)[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@@H](O1)COCC1=CC=CC=C1 | C27H30O5
reactant | sodium borohydride | 30.5 mmol, 0.844 g | [BH4-].[Na+]
reactant | acetone | CC(=O)C | C3H6O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 2,3,5-tri-O-benzyl-L-xylitol | 10.2 g, 86.5% | C(C1=CC=CC=C1)O[C@H](CO)[C@H](OCC1=CC=CC=C1)[C@@H](O)COCC1=CC=CC=C1 | C26H30O5
